US05672602
(S)-N-Benzyl-N-methyl-2-[N-(t-butoxycarbonyl)-allylamino]-3-phenyl-propionamide
Combine (S)-2-[N-(t-butoxycarbonyl)-allylamino-3-phenyl-propionic acid (11.1 g, 36.35 mmol), and THF (360 mL). Cool to -22° C. Add N-methylmorpholine (7.09 mL, 54.53 mmol) and then stir for 10 minutes. Add isobutyl chloroformate (7.09 mL, 54.53 mmol) and stir for 30 minutes at -22° C. Add N-methyl-N-benzylamine (7.09 mL, 54.53 mmol). Allow to warm to ambient temperature and stir for 2 hours. Dilute the reaction mixture with ethyl acetate and extract with water. Separate the layers, dry the organic layer over MgSO4, filter, and evaporate in vacuo. Chromatograph on silica gel eluting with 10% ethyl acetate/hexane to give the title compound.

reactant | N-(t-butoxycarbonyl)-allylamino-3-phenyl-propionic acid | 36.35 mmol, 11.1 g | C(C)(C)(C)OC(=O)N(CC=C)C(C(=O)O)CC1=CC=CC=C1 | C17H23NO4
reactant | N-methylmorpholine | 54.53 mmol, 7.09 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 54.53 mmol, 7.09 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl-N-benzylamine | 54.53 mmol, 7.09 mL | CNCC1=CC=CC=C1 | C8H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 360 mL | C1CCOC1 | C4H8O
product | (S)-N-Benzyl-N-methyl-2-[N-(t-butoxycarbonyl)-allylamino]-3-phenyl-propionamide | C(C1=CC=CC=C1)N(C([C@H](CC1=CC=CC=C1)N(C(=O)OC(C)(C)C)CC=C)=O)C | C25H32N2O3
